US04381395
N,N'-Dicyano-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine (527 mg) was added to a solution of CH3NH2 in ethanol (40%, 3.1 g) and stirred for 47 hrs. at room temperature. After concentration under a reduced pressure, the residue was triturated with CH3CN. The insuluble starting material was filtered off and the filtrate was concentrated under a reduced pressure and chromatographed on SiO2 [eluant: CH3CN-CH3OH (4:1)]. The resulting crude product was purified by preparative thin layer chromatography [SiO2, CH3 --COOC2H5 --CH3OH-- 28% NH3 (aq) (10:1:1)] and recrystallized from CH3CN to give N"-cyano-N-methyl-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine (1.0 mg). m.p. 135°-137° C.

reactant | N,N'-Dicyano-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine | 527 mg | C(#N)NC(=N)N(CCSCC=1N=CNC1C)C#N | C10H13N7S
reactant | CH3NH2 | CN | CH5N
solvent | ethanol | 3.1 g | C(C)O | C2H6O
product | N"-cyano-N-methyl-N'-[2-(5-methylimidazol-4-ylmethylthio)ethyl]guanidine | 1.0 mg | C(#N)N=C(NC)NCCSCC=1N=CNC1C | C10H16N6S
